US09388176B2
1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-phenylurea
In a manner similar to that described in Example 163, 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride (75.0 mg, 0.251 mmol) and phenyl isocyanate (0.041 mL, 0.377 mmol) were reacted to give the title compound as an off-white solid (52 mg, 60%). 1H NMR (DMSO-d6) δ 8.53 (s, 1H), 8.42 (s, 1H), 8.39 (s, 1H), 8.31 (d, J=4.7 Hz, 1H), 7.43 (d, J=7.6 Hz, 2H), 7.33 (d, J=9.1 Hz, 2H), 7.26 (t, J=7.8 Hz, 2H), 7.18 (d, J=5.0 Hz, 1H), 6.99 (d, J=9.1 Hz, 2H), 6.94 (t, J=7.3 Hz, 1H), 4.33 (s, 2H), 3.47 (t, J=5.9 Hz, 2H), 2.91 (t, J=5.7 Hz, 2H).

reactant | 4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)aniline dihydrochloride | 0.251 mmol, 75.0 mg | Cl.Cl.C1N(CCC2=CC=NC=C12)C1=CC=C(N)C=C1
reactant | phenyl isocyanate | 0.377 mmol, 0.041 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 1-[4-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)phenyl]-3-phenylurea | 52 mg, 60% | C1N(CCC2=CC=NC=C12)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C21H20N4O
